US04795488
4-(2-Fluorophenyl)-2-(2-trifluoromethylbenzoyl)-cyclohexane-1,3-dione
2-Trifluoromethylbenzoyl chloride (7.1 g, 0.034 mole) and 4-(2-fluorophenyl)-1,3-cyclohexanedione (7.0 g, 0.034 mole) were dissolved in methylene chloride. Triethylamine (4.1 g, 0.041 mole) was added dropwise and the resulting solution stirred for one hour. The solution was washed with 2 normal hydrochloric acid (2N HCl), 5% potassium carbonate solution, and saturated sodium chloride solution, dried over anhydrous magnesium sulfate (MgSO4) and concentrated under vacuum. The residue was dissolved in 40 ml of acetonitrile. Triethylamine (1 equivalent) and acetone cyanohydrin (0.4 ml) were added and the solution stirred for 1 hour at room temperature. After dilution with ether (150 ml), the solution was washed with 2N HCl. The ether layer was then stirred with 100 ml of 5% copper (II) acetate. The resulting copper salt was filtered, washed with hexane, and stirred with 6N hydrochloric acid to destroy the salt. The acidic aqueous solution was extracted with ether. The ether solution was then washed with water and dried over MgSO4. Concentration of the ether solution under vacuum afforded 4.4 g of the desired product as a brown oil (34.2% yield). The structure was confirmed by instrumental analysis.

reactant | 2-Trifluoromethylbenzoyl chloride | 0.034 mole, 7.1 g | FC(C1=C(C(=O)Cl)C=CC=C1)(F)F | C8H4ClF3O
reactant | 4-(2-fluorophenyl)-1,3-cyclohexanedione | 0.034 mole, 7.0 g | FC1=C(C=CC=C1)C1C(CC(CC1)=O)=O | C12H11FO2
reactant | Triethylamine | 0.041 mole, 4.1 g | C(C)N(CC)CC | C6H15N
reactant | Triethylamine | 1 equivalent | C(C)N(CC)CC | C6H15N
reactant | acetone cyanohydrin | 0.4 ml | CC(C#N)(O)C | C4H7NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | 4-(2-Fluorophenyl)-2-(2-trifluoromethylbenzoyl)-cyclohexane-1,3-dione | 4.4 g, 34.2% yield | FC1=C(C=CC=C1)C1C(C(C(CC1)=O)C(C1=C(C=CC=C1)C(F)(F)F)=O)=O | C20H14F4O3
